US06060469
c) 2-Bromo-6-(2-hydroxyethyl)-4-nitrophenol
2-Bromo-6-prop-2-enyl-4-nitrophenol (5.8 g) was dissolved in dichloromethane (30 ml) and methanol (30 ml) and the resulting solution was cooled to -78° C. Ozone was bubbled through the solution until a faint blue coloration was observed and all starting material had reacted. The solution was purged with nitrogen, sodium borohydride (850 g) was added and the solution was allowed to come to room temperature. The solvent was evaporated and the residue was dispersed between ethyl acetate and HCl (1N). The ethyl acetate layer was washed with water, brine, dried (MgSO4) and concentrated. The residue was purified on silica using 2% methanol in dichloromethane as eluent to afford the title compound as a white solid (4 g). 1H NMR (360 MHz, CDCl3) δ 3.03 (2H, t, J=5.4 Hz), 4.06 (2H, t, J=5.5 Hz), 8.01 (1H, d, J=2.6 Hz), 8.35 (1H, d, J=2.6 Hz).

reactant | 2-Bromo-6-prop-2-enyl-4-nitrophenol | 5.8 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])CC=C)O | C9H8BrNO3
reactant | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Bromo-6-(2-hydroxyethyl)-4-nitrophenol | 4 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])CCO)O | C8H8BrNO4
